US08461175B2
A 250 ml round-bottomed flask is charged at RT with 20.5 g of a mixture of the E and Z isomers of 2-[1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl]-1H-isoindole-1,3(2H)dione in 75 ml of ethanol. 7.8 ml of hydrazine hydrate are added. The suspension is stirred at RT for 1 h 30 min and then heated to reflux. After 1 h 30 min of heating, a thickening of the mixture may be observed, and it takes on a yellow colour. The suspension is filtered off hot with suction on a frit and the precipitate is washed with ethanol. The filtrate is concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with DCM and with a DCM/methanol mixture (95/5 by vol.), to give 9.45 g of 5-phenyl-1H-pyrazol-4-amine (brown solid). LC-MS-DAD-ELSD: 163 (+)=(M+H)(+).

reactant | 2-[1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl]-1H-isoindole-1,3(2H)dione | CN(C=C(C(C1=CC=CC=C1)=O)N1C(C2=CC=CC=C2C1=O)=O)C | C19H16N2O3
reactant | hydrazine hydrate | 7.8 ml | O.NN
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-phenyl-1H-pyrazol-4-amine | 9.45 g | C1(=CC=CC=C1)C1=C(C=NN1)N | C9H9N3
